US04326055
In a manner analogous to that described in Example 1, from [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethyl]-triphenylphosphonium bromide and 3-methyl-4-ethoxycarbonyl-benzaldehyde there can be obtained p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-2-methyl-benzoic acid ethyl ester as a colourless oil which is uniform according to thin-layer chromatography, (Rf=0.6; hexane/15% ether).

reactant | [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethyl]-triphenylphosphonium bromide | [Br-].CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 3-methyl-4-ethoxycarbonyl-benzaldehyde | CC=1C=C(C=O)C=CC1C(=O)OCC | C11H12O3
product | p-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-2-methyl-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)\C=C(/C)\C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C)=O | C27H34O2
